Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy (EGD) - a scope was used to look at 
the upper part of your throat and intenstines including stomach 
that was normal

Colonscopy - a scope was used to look at the lower part of your 
intensines such as your colon that was normal except for 
hemorrhoids

 
History of Present Illness:
___ with fibromyalgia and chronic pain, depression, anxiety, h/o 
PE on warfarn who presents with BRBPR. The patient reports she 
has been noting BRBPR on the toilet paper and coating her stools 
for the past 1 week. She also notes blood when passing flatus. 
She denies any lightheadedness, dizziness. She has RUQ abdominal 
pain consisitent with her chronic pelvic pain.  
On further description of the BRBPR, she describes having 
noticed several "jelly-like" blood clumps in her stool recently. 
She is sure they are not made out of stool. She denied fevers, 
chills, black stools, nausea, vomiting, hematemesis, coughing, 
lightheadedness, dizzyness, pain on defecation, changes in 
consistency of bowel movement, vaginal discharge, hematuria, 
pain on urination pelvic pain, alcohol or NSAID use. Patient 
reports bilateral edema that in the past week that has affected 
her mobility to some effect. She also complains of flank pain, 
which does not get better or worse with bowel movement.  
Of note the patient has had 2 past PEs. The first occured ___ 
years ago in the setting of a knee surgery. She coumadin was 
discontinued and she subsequently had another PE. The patient 
notes her INRs have been difficult to manage. She has been as 
high as 17 in the past. She was also recently admitted for a 
heparin bridge in the setting of a subtherapeutic INR in ___. 
She was discharged on a lovenox bridge but has been off of this 
medications for several weeks.  

 
 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression 
9. anxiety  
10. obesity  
11. sleep apnea 
12. migraines
13. GERD
14. chronic lower back pain
 
Social History:
___
Family History:
Father's health unknown except potential h/o stomach cancer; 
Uncle has unknown cancer.
Mother living at ___ with arthritis and osteoporosis
Aunt recently passed at ___ ___nd heart disease.
Grandmother with breast cancer
No siblings
Children healthy
 
Physical Exam:
Admissions Exam

Vitals: 98 ___ 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Back: No CVA tenderness  
Abdomen: soft, mild TTP in RUQ and LUQ no rebound tenderness or 
guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, trace non pitting edema in 
both ankles.  

Discharge Exam

Vitals: 98.5 139/95 69 18 99%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, mild TTP in mid-epigastric and L lateral side 
with no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, trace non pitting edema in 
both ankles.  
 
Pertinent Results:
___ 05:20PM BLOOD WBC-4.4 RBC-4.53 Hgb-12.3 Hct-38.8 MCV-86 
MCH-27.2 MCHC-31.8 RDW-14.4 Plt ___
___ 05:20PM BLOOD ___ PTT-58.9* ___
___ 11:42PM BLOOD
___ 05:20PM BLOOD Glucose-85 UreaN-7 Creat-0.8 Na-141 
K-5.2* Cl-108 HCO3-22 AnGap-16
___ 05:20PM BLOOD ALT-17 AST-32 LD(LDH)-657* AlkPhos-92 
TotBili-0.2
___ 06:10AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.8
___ 05:25PM BLOOD Lactate-1.6 K-3.9
___ 05:55AM BLOOD WBC-5.7 RBC-4.33 Hgb-12.0 Hct-36.2 MCV-84 
MCH-27.7 MCHC-33.2 RDW-14.6 Plt ___
___ 05:20PM BLOOD Neuts-48.0* Lymphs-44.4* Monos-5.6 
Eos-0.9 Baso-1.1
___ 05:55AM BLOOD Glucose-89 UreaN-4* Creat-0.7 Na-143 
K-3.5 Cl-106 HCO3-25 AnGap-16

___
IMPRESSION: No deep vein thrombosis within the right or left 
lower extremity.

___:
Impression: Normal mucosa was noted until the hepatic flexure. 
The cecum could not be reached due to the presence of a very 
long colon and recurrent looping. 
No discrete lesion was noted. 
There was stool in the lumen of the colon. No blood was noted.  
Recommendations: Return to floor under ongoing care. 
Follow-up with Dr. ___ as needed 
___ colonoscopy with adecuate preparation under MAC
Additional notes: The procedure was performed by Dr. ___ 
the GI fellow. The patient's reconciled home medication list is 
appended to this report. No specimen were taken. 

EGD (___):
Impression: Normal mucosa in the esophagus 
Small hiatal hernia 
Normal mucosa in the stomach 
Normal mucosa in the duodenum
Recommendations: No discrete lesion was noted in the EGD. No 
blood was noted. Proceed with colonocospy.
Additional notes: The procedure was performed by Dr. ___ 
the ERCP fellow. The patient's reconciled home medication list 
is appended to this report. EBL = zero. Final diagnosis as 
above. No specimens as above. 

 
Brief Hospital Course:
# BRBPR:
Patient came with reports of BRBPR in setting of suprtherapeutic 
INR likely hemorrhoidal.   EGD and colonscopy performed that 
identified no other source for bleeding per GI. While in the ED, 
the patient was given FFP and Vit K with reversal of INR seen 
while waiting for colonscopy/EGD. Her Hct was stable throughout 
admission with no evidence of any blood in her stools and 
otherwise asymptomatic besides occasional abdominal pain (see 
below). Pt recommended continue follow-up with GI for future 
colonscopy with long prep likely needed in the future. Follow-up 
with PCP setup following discharge.
.
# Abdominal pain: 
Patient reports chronic pain due to fibromylagia with pain 
during admission consistent with her normal pain. No evidence of 
obstruction or acute abdomen noted during admission. Infectious 
work-up including UA was negative with no vaginal discharge or 
leukocytosis. Pain not associated with periods. LFTs normal Last 
EGD ___ showed non-erosive gastritis. CTA of pelvis ___ showed 
no abdominal pathology but did show adhesions. However, while 
prepping for colonoscopy, patient did state improvement in her 
abdominal pain so could be a component of chronic constipation.
.
*** Chronic Diagnoses ***
.
# PEs - Patient has a history of 2 PEs (one provoked). INR has 
been difficult to manage. Patient recieved FFP and Vitamin K as 
above with reversal noted. For bridging therapy, heparin drip 
was initially started prior to colonoscopy/EGD procedure. After 
procedure, patient was started on Lovenox bridge while being 
restarted on home Coumadin dosing. Pt instructed to continue 
Lovenox shots and follow-up with ___ clinic as arranged for 
INR check shortly after discharge. 
.
# ___ edema
Unclear etiology, which has been ongoing for several weeks. DDx 
includes venous stasis, CHF and DVT. ___ was negative. No 
events over the tele. Patient reports schedule for outpatient 
holter for palpitations and stress test. Pt sent directly to 
cardiology for Holter montior and further work-up as previously 
established by cardiology on outpt basis.
.
# Fibromyalgia and chronic pain: 
Stable, see above abdominal pain. Continued home oxycodone, 
tizanidine, flexeril without complaint.
 
# Depression/anxiety: 
Stable on home seroquel, bupropion, lorazepam
.
# HTN: 
Stable on home lisinopril 
.
*** Transitional Issues ***
.
- GI recommended repeat colonscopy in the future for further 
evaluation because of length of her colon and need for more 
adequate prep despite receiving 3L or more of Moviprep prior to 
procedure
.
- Patient was counseled numerous times and stated that she could 
have her mother or another relative assist who were already 
trained to assist her in getting her Lovenox shots. Verbalized 
understanding of risk of not having the shots while achieving 
therapeutic INR. 
.
- Pt set to follow-up with ___ clinic for dose adjustments 
and INR check. Pt has issues with compliance while on warfarin, 
may benefit from meds like dabigatran where monitoring less but 
must weigh risks/benefits.
.
- * Patient had appointment to pick-up Holter for history of 
palpitations on day of discharge so patient sent to cardiology 
to pick it up.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB 
2. BuPROPion 100 mg PO BID 
3. Calcium Carbonate 600 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO DAILY PRN anxiety or insomnia 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO EVERY ___ HR PRN 
pain 
8. Pantoprazole 40 mg PO Q24H 
9. Quetiapine Fumarate 400 mg PO QHS 
10. Tizanidine ___ mg PO TID:PRN spasm 
11. Vitamin D ___ UNIT PO DAILY 
12. Warfarin 7.5 mg PO 3X/WEEK (___) 
13. Warfarin 5 mg PO 4X/WEEK (___) 
14. Ambien CR *NF* (zolpidem) 12.5 mg Oral qHS  
15. Cyclobenzaprine 10 mg PO TID:PRN spasm 
16. Docusate Sodium 200 mg PO DAILY:PRN constipation 
17. Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS 
18. lidocaine-menthol *NF* ___ % Topical daily prn pain 
19. Sumatriptan Succinate 50 mg PO ONCE PRN headache 

 
Discharge Medications:
1. BuPROPion 100 mg PO BID 
2. Calcium Carbonate 600 mg PO DAILY 
3. Docusate Sodium 200 mg PO DAILY:PRN constipation 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO DAILY PRN anxiety or insomnia 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO EVERY ___ HR PRN 
pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
Every 6 hours Disp #*30 Tablet Refills:*0
7. Pantoprazole 40 mg PO Q24H 
8. QUEtiapine Fumarate 400 mg PO QHS 
9. Tizanidine ___ mg PO TID:PRN spasm 
10. Vitamin D ___ UNIT PO DAILY 
11. Cyclobenzaprine 10 mg PO TID:PRN spasm 
12. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB 
13. Ambien CR *NF* (zolpidem) 12.5 mg Oral qHS  
14. Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS 
15. lidocaine-menthol *NF* ___ % Topical daily prn pain 
16. Ondansetron 8 mg PO Q8H:PRN nausea 
17. Sumatriptan Succinate 50 mg PO ONCE PRN headache 
18. Enoxaparin Sodium 120 mg SC Q12H 
RX *enoxaparin 120 mg/0.8 mL 1 Injection Sub-Q Every 12 hours. 
Disp #*14 Syringe Refills:*0
19. Warfarin 7.5 mg PO 3X/WEEK (___) 
20. Warfarin 5 mg PO 4X/WEEK (___) 
21. Ondansetron 4 mg PO Q 8H Nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Hello Ms ___,
.
You came in with blood in your stool that may have been due to 
over-thinning of your blood that led to a bleed from your 
hemorrhoids. As a result, the Gastroenterology (GI or stomach) 
doctors decided we should perform a EGD (scope of the upper part 
of your intestines like stomach) and colonscopy (scope of the 
lower part of your intestines. The GI doctors ___ 
significant abnormalities that would have caused your bleed. 
Most likely the blood seen in your stool was due to your 
hemorrhoids bleeding because your blood may have been 
over-thinned and corrected while you were in the hospital.
.
Because of your risk for clot in your lung that you were taking 
coumadin (Warfarin) for we changed your anticoagulation (blood 
thinning) medication to heparin (the blood thinner through your 
IV). We will send you home on Lovenox, a blood thinner injection 
you must take as we restart your coumadin, to prevent clots. You 
will continue to take your coumadin and must follow-up at the 
___ clinic to continue to manage your blood thinning 
medications and ensure your blood is properly monitored.
.
If you experience any further bleeding or other concerning 
symptoms such as significantly worse abdominal pain or fever, 
chills, chest pain or shortness of breath please contact your 
primary care physician or come to the Emergency Room.
.
Please follow-up with your primary care physician after leaving 
the hospital within ___ weeks. An appointment (see below) has 
been made for you at ___ with Dr. ___. 
Please call them if you need to re-schedule in advance.
.
The following changes in your medications were made:
.
- Take 1 injection of enoxaparin (Lovenox) twice a day to thin 
your blood. The coumadin (warfarin) clinic will instruct you 
when you may stop.
.
Please continue your normal home regiment for your Coumadin 
(Warfarin) and will need your INR checked ___ so you 
must see the ___ nurses to help manage 
your coumadin.
 
Followup Instructions:
___